US07456164B2
1-isopropyl-4-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)piperazine
The title compound (78 mg, 44%) was prepared from 1-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}piperazine and acetone similarly to the procedure used for example 54. 1H NMR (400 MHz, CDCl3) δ 0.98 (d, 6H), 1.77-1.80 (m, 4H), 1.86-1.93 (m, 2H), 1.98-2.02 (m, 2H), 2.06-2.09 (m, 2H), 2.20-2.22 (m, 4H), 2.34-2.36 (m, 6H), 2.50-2.54 (m, 5H), 2.62 (t, 2H), 3.52 (t, 2H), 3.71-3.75 (m, 2H), 4.02 (t, 2H), 6.85 (d, 2H), 7.21 (d, 2H). HRMS ESI+ m/z 430.3417 [MH]+.

reactant | 1-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}piperazine | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN1CCNCC1 | C23H37N3O2
reactant | acetone | CC(=O)C | C3H6O
product | 1-isopropyl-4-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)piperazine | 78 mg, 44% | C(C)(C)N1CCN(CC1)CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C26H43N3O2
